US04725608
A solution of 4-fluoro-N-phenoxycarbonylaniline (2.29 g), N-amino-1,2,3,6-tetrahydropyridine hydrochloride (1.346 g) and triethylamine (1.02 g) in chloroform (25 ml) was refluxed for 20 hours. After evaporation of chloroform, the residue was extracted with ethyl acetate (100 ml). The extract was washed with water, dried over magnesium sulfate and evaporated in vacuo. The residue was chromatographed on silica gel (20 g) using chloroform as an eluent to give N-[[(4-fluorophenyl)carbamoyl]amino]-1,2,3,6-tetrahydropyridine (1.05 g). mp: 156°-157° C.

reactant | 4-fluoro-N-phenoxycarbonylaniline | 2.29 g | FC1=CC=C(NC(=O)OC2=CC=CC=C2)C=C1 | C13H10FNO2
reactant | N-amino-1,2,3,6-tetrahydropyridine hydrochloride | 1.346 g | Cl.NN1CCC=CC1
reactant | triethylamine | 1.02 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | N-[[(4-fluorophenyl)carbamoyl]amino]-1,2,3,6-tetrahydropyridine | 1.05 g | FC1=CC=C(C=C1)NC(=O)NN1CCC=CC1 | C12H14FN3O
